US07176242B2
To a −70° C. stirred solution of N-Boc-piperidone (500 mg, 2.5 mmol) in tetrahydrofuran (11 mL) was added lithium diisopropylamine (1.37 mL of a 2 M solution in tetrahydrofuran, 2.75 mmol). The reaction mixture was stirred for 2 h, warmed to 0° C., and N-phenyltriflamide (955 mg, 2.67 mmol) was added. The solution was allowed to warm to room temperature and was stirred for 12 h. The reaction mixture was concentrated under reduced pressure. Purification by flash column chromatography (3:1 hexanes/ethyl acetate) afforded tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate (240 mg): 1H NMR (300 MHz, CDCl3) δ 5.77 (s, 1H), 4.05 (m, 2H), 3.63 (m, 2H), 2.45 (m, 2H), 1.48 (s, 9H).

reactant | N-Boc-piperidone | 2.5 mmol, 500 mg | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | N-phenyltriflamide | 2.67 mmol, 955 mg | C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | 240 mg | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
